Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My grandmother was saying a bunch of stuff." 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ (___) ED Initial Psychiatry Consult note:

"Ms. ___ is an ___ yo female with 1 prior inpatient psychiatric
hospitalization (___, ___, multiple prior suicide
attempts (via overdose) brought in by mother following
notification that patient had posted on social media that she 
had
wanted to end her life and took 4 sleeping pills from her
grandmother's medicine cabinet.

Per patient she frequently gets in arguments with her parents 
and
grandparents. She is recently living with her grandparents and 
in
response to her grandfather saying that he cannot live with her
"emotions" patient experienced feelings best described as
"overwhelmed and upset." In response she decided to take 4
sleeping pills of melatonin and she looked up the side effects
before taking them. She denies her intent was to end her life 
but
rather to "teach them a lesson." "Me talking to them doesn't 
work
but the only thing that works in their head is behaviors." She
states that nothing works when "I try to talk to them, the only
way they can listen when I do this." Following this she reports
telling her ___ that "I'm sorry and I hope our little
sister's look up to me and that I don't deserve to be here."
Following this her step sister, made her feel better. As a
result, she know feels a little guilty though denies suicidal
ideation.  I feel bad and cry and I want to but then I say what
am I doing.

Per patient report she is diagnosed with anxiety and bipolar
disorder. She reports she does not like taking her medications
because they "make me sleepy and nauseous." In regard to her 
mood
and the current state of her mental illness she reports anger,
interpersonal conflict, and a delayed sleep cycle. Per patient,
"My mom says ___ been acting different. Distancing myself from
everyone. Keeping to myself. Patient denies poor mood,
hopelessness, decreased interest, increased/decreased energy.

COLLATERAL
Per Nursing notes brought in by mother
-psychosocial stressors: breakup and loss of employment
-took 4 pills starting with letter "M" from Grandparents cabinet
-Off psychiatric medications for "6 weeks"
-sertraline and Latuda

Mother at bedside
Patient has not been functioning well. Lost job, was not doing
well in school (mother had to support patient with most of
schoolwork; online classes to finish HS). Has been off
medications and has not been adherent due to patient believing
that she does not need them. Has outpatient therapist though has
not attended and 4 partial programs over last several years.
Mother woke up after ___ called stating that patient
posted to Facebook that she was going to kill herself. Per 
Mother
patient took melatonin and then looked up the side effects. 
Found
glass upstairs in room and concern for resuming ___
behaviors. Reports patient has been out at all hours of the
night. Per mother, patient has not been sleeping up until 7 AM.
In the past patient has stayed up for several nights at a time.
Concerned for patients safety and that she may continue to
spiral.

ROS:
- Psychiatric ROS: Positive per HPI, Denies the following:
Depressed mood, anhedonia, appetite/weight change, psychomotor
agitation, diminished concentration, hopelessness,
hallucinations, racing thoughts, distractibility, increase in
___, social/economic indiscretion, panic attacks,
phobias, rumination, obsessions, compulsions, nightmares.   
- ___ ROS: +HA, recent dysuria, though now only
intermittent--> PCP concern for UTI
-Denies: Fever, sweats, visual changes, neck pain/stiffness,
chest pain, palpitations, SOB, nausea, vomiting, constipation,
diarrhea, rashes, joint pain, dysuria"

ED Course: Patient remained in good behavior control. No 
chemical
or physical restraints administered. 

Upon interview today on Deac 4, pt states she was having 
anxiety,
so she took 4 sleeping pills (melatonin) to "knock me out" and 
to
scare her family. Pt reports that she had searched what would
happen on ___. So, she knew she would get sleepy, have a HA,
and become dizzy. She denies intent to kill herself. However, 
she
admits that she has wanted to end her life in the past. She 
notes
that she has been experiencing intermittent SI on since age ___. 
Pt
feels her SI often occurs in setting of triggers. This time, she
explains that her trigger was her family. She states that her
grandmother said hurtful things like "get a job or you're not
going to be nothing." She feels that when she talks to her 
family
about her feelings, it doesn't work. But when she "does 
something
like this" that's when they listen. Pt also notes that her
grandfather wants her to move out and she had a recent break up
(last week) with boyfriend. Current denies SI/HI. She feels she
can maintain safety while in the unit. 

Pt stopped taking medications because it makes her feel sleepy
and nauseous. However, she is not clear which medications cause
these side effects. The "blue" one helps my mood, but feels the
"other two" make me feel sick.

Pt endorses low mood, poor sleep (difficulty falling asleep but
not staying asleep), fatigue, hopeless, worthless, and guilt 
("if
I didn't have depression, anxiety, or bipolar disorder - I
wouldn't act like this"). Denies difficulty with concentration,
appetite.  Reports flashbacks to trauma ___ (decreased in
frequency from before), nightmares 1x/week (decreased in
frequency from before), hypervigilence, but denies avoidance. 
Denies symptoms consistent with psychosis. 

___ medical ROS was negative, including: Fever, headache,
eye pain, hearing deficit, chest pain, shortness of breath,
abdominal pain, constipation, diarrhea, MSK pain
 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY

All histories as per Dr. ___ (___) ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate:
========================
- Past diagnoses:anxiety, bipolar
- Hospitalizations:  ___ years --> ___. Overdose by entire
bottle of ___ vitamins. 4 partial hospitalizations in last
___ years.    
- Psychiarist: ___: Dr. ___ 
- ___ Psychologist 
- Medication and ECT trials: sertraline, lurisadone, lamictal
- ___ behaviors: "used to ___ cutting. ___
weeks ago, not to point of bleeding. 
- Suicide attempts: multiple prior suicide attempts (via
overdose)
- Harm to others: denies
- Trauma:  +sexual/physical abuse

====================
PAST MEDICAL HISTORY
====================
- PCP: Dr. ___ at ___
- Hx of head trauma: Denies
- Hx of seizure: Denies
- PMHx: Denies

===========
MEDICATIONS
===========
Lamotrigine 100mg QHS (2 months)
Sertraline 50mg daily (month ago) 
Lurasidone 60mg QHS (month ago) 

=========
ALLERGIES
=========
NKDA

 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: ___ drinks at social events 
- Tobacco: denies
- Cannabis: has tried it once in the past
- Illicits: denies

================
FORENSIC HISTORY
================
- Arrests: assault of family member and dismissed 
- ___ and jail terms: denies
- Current status (pending charges, probation, parole): denies

==============
SOCIAL HISTORY
==============
- B/R: ___
- Family: Mother, grandparent
- Relationship status: single, recent break up 
- Primary supports: mother
- ___: Currently living with grandparents
- Education: Graduating in ___ from High School, Going to
College in ___ transfer to Mass Art. Fashion ___
- Employment/income: Employed at ___ (1 week),
Chipotle (1 month), ___ ___ year). 
- Spiritual: Denies
- Access to weapons: Denies
- Interests: Movies (Halloween movies)
 
Family History:
Reports that her mother and grandmother have depression. Reports
mother had attempted suicide in the past. 
 
Physical Exam:
Vital Signs:
T: 98.2, BP: 105 / 71, HR: 83, RR :16, O2: 98%

GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, ___, bowel sounds normoactive, no
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and ___, no edema of the limbs
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, ___, normal stride and arm
swing, able to walk in tandem without difficulty, Romberg absent

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: Refused MOYb, but intact to DOWb
- Orientation: oriented to person, time, place, situation
- Executive function ___ go, Luria, trails, FAS): not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 minutes with ___ after
categorical cues
     - ___ grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "No matter how they
look like you don't know their back story so don't bring them
down"
     - bicycle/train: "they have wheels, they move"
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS:
- Appearance: no acute distress, young female appearing stated
age, adequate hygiene and grooming, wearing hospital gown, hair
up in messy ponytail, wearing glasses
- Attitude/Behavior: calm, cooperative, no psychomotor agitation
or retardation, appropriate eye contact, good posture
- Mood: "tired"
- Affect: restricted, but reactive
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, ___, no loose
associations
- Thought Content: denies SI/HI, no evidence of paranoia, denies
AVH, not appearing to be attending to internal stimuli
- Judgment and Insight: Limited/limited
 
Pertinent Results:
CBC: WBC 13.2
BMP: unremarkable
TSH: 5.3
STox: negative
UTox: negative 
UA: small leuk esterase, 16 WBCs, few bacteria
Urine culture: pending
UCG: negative

 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. She did not 
require physical or chemical restraints during this 
hospitalization. 

There was an incident in which a male patient was found by the 
patient sitting on her bed. She immediately alerted staff who 
intervened. The male patient was kept apart from this patient 
and there was no further incident for the remainder of the 
hospitalization.

2. PSYCHIATRIC:
 
Upon admission, the patient reported that she took 4 melatonin 
pills without intent to die, but rather to get attention from 
her family. She reported longstanding history of SI since 
childhood, but denied SI in the hospital. She explains that her 
suicidal thoughts occur in the setting of certain triggers, 
which she clearly lists out on admission. Patient is able to 
identify several triggers for her which include her relationship 
with her family, hurtful words her grandmother said to her, her 
feeling that her grandfather does not want her to live at the 
home anymore, and a recent breakup with her boyfriend. ___, 
pt also stopped taking her medications ___ months prior in 
setting of having unpleasant side effects (nausea and sedation). 


We conducted a detailed review of manic symptoms with the 
patient, since she reported a diagnosis of Bipolar Disorder. She 
denied any periods of elevated mood, decreased need for sleep, 
grandiosity, increased talkativeness, increase in ___ 
activity, or excessive involvement in activities with potential
for painful consequences (tattoos, sex, drugs).  She denied 
periods of decreased need for sleep with intact energy. 
Sometimes feels thoughts racing when anxious. She described a 
history of seeing "shadows" and hearing "kids playing" which she
thinks might be related to paranormal behavior, which she states 
her family believes in. She has not seen or heard hallucinations 
since starting psychiatric medications. Collateral from her 
outpatient PCP and psychiatrist confirmed a lack of known manic 
symptoms, although the patient's mother has reported periods of 
intense aggression (physical towards grandmother). Given her 
above lack of manic history, it was felt that the patient does 
not meet criteria for Bipolar Disorder. This was shared with the 
patient, her mother and her outpatient team. 

The patient’s presentation was concerning for unspecified mood 
disorder, anxiety, cluster B personality traits, and trauma 
history.

The patient was restarted on Lamictal 25 mg for mood stability. 
Lamictal was started at lower dose given that she had been 
noncompliant for at least 1 month prior to admission. Patient 
tolerated this well. Goal is 200 mg, can double dose (25 -> 50 
-> 100 -> 200) every 2 weeks as outpatient if no side effects 
such as ___ symptoms. Can also consider 
restarting sertraline as outpatient.

At time of discharge patient denied SI and was in stable 
condition. She was discharged with appts for partial 
hospitalization program, therapist, psychiatrist, PCP, and 
endocrinology.

3. SUBSTANCE USE DISORDERS:
#) N/A
 
4. MEDICAL

#)Insomnia
- Patient received diphenhydramine 50 mg qhs for insomnia with 
good effect.

#)UTI
- Patient reported 1w dysuria, increased urinary frequency, and 
vaginal itching. Started on macrobid ___ mg BID for 5d course.
[ ] Complete macrobid ___ mg BID for 5d course (___)

#)STI screening
- Patient reported being sexually active and had STI screening 
one week prior to presentation. Denied vaginal discharge.
[ ] Consider outpt HIV testing

#)Hypothyroidism
- Upon admission, patient's TSH noted to be high at 5.3. Free T4 
was WNL at 1.3. Placed endocrine consult for concern for 
hypothyroidism, who recommended outpatient ___ with TSH 
and free T4 drawn 1 week prior. 
[ ] Outpt endocrine appointment on ___ at 12:30 ___ at ___ 
___, ___ floor ___ 
(Endocrinology Offices)
[ ] PCP - please draw TSH and free T4 by ___ and send results 
to ___ endocrinology: fax # ___.
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  She was often visible in the 
milieu and was appropriate in her interaction with peers and 
staff without ever requiring restraint or seclusion
 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family (specifically her mother) was involved in 
the patients’ treatment and discharge planning, and was provided 
with the opportunity to discuss the patient’s diagnosis and 
treatment with the primary treatment team. The patient’s family 
was supportive of the patient’s treatment and aftercare plan.  
- ___,
 
#) INTERVENTIONS
- Medications: Restarted on lamotrigine 25 mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Apts with PCP, ___, and 
endocrinology were scheduled. Pt was referred to partial program 
as below. She was also set up to reconnect with her previous 
therapist at ___ Dr. ___. 
- Behavioral Interventions: encourage DBT skills at discharge
- Guardianships: N/A
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  
 
RISK ASSESSMENT & PROGNOSIS
 
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon overdose with 
sleeping pills. Her static factors noted at that time include 
history of suicide attempts, history of abuse, chronic mental 
illness, Caucasian race, young age, and single relationship 
status.  Her modifiable risk factors included suicidal ideation 
without intent, medication noncompliance, lack of engagement 
with outpatient treatment,  limited coping skills, impulsivity,  
recent personal loss of relationship with significant other,  
and lack of engagement with outpatient treatment. The modifiable 
risk factors were addressed during hospitalization via 
medication management, psychotherapeutic intervention, and 
aftercare coordination.  Finally, the patient is being 
discharged with many protective risk factors, including female 
gender, strong social supports, no chronic substance use, and no 
access to lethal weapons.  Overall, the patient is not at an 
acutely elevated risk of ___ nor danger to others due to 
acutely decompensated psychiatric illness.
 
Medications on Admission:
Depo birth control; pt was prescribed the following but had not 
been taking them: 
Lamotrigine 100mg QHS (off for 2 months)
Sertraline 50mg daily (off for 1 month) 
Lurasidone 60mg QHS (off for 1 month)
 
Discharge Medications:
1.  LamoTRIgine 25 mg PO/NG QHS 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth once a day 
Disp #*11 Tablet Refills:*0 
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO BID Duration: 5 
Days 
RX *nitrofurantoin ___ [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*8 Capsule Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder
Unspecified anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___